US04369312
4-Nitrobenzyl 7-amino-3-methoxy-3-cephem-4-carboxylate, trifluoromethanesulfonic anhydride, triethylamine and hydrochloric acid were reacted in the same manners as those of Examples 1-4 to give 4-nitrobenzyl 7-oxo-3-methoxy-3-cephem-4-carboxylate (monohydrate). Mp. 115°-120° C. (dec.).

reactant | 4-Nitrobenzyl 7-amino-3-methoxy-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C15H15N3O6S
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-nitrobenzyl 7-oxo-3-methoxy-3-cephem-4-carboxylate | O=C1[C@@H]2N(C(=C(CS2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C15H12N2O7S
